US05278316
9H-Fluoren-9-ylmethyl-[2-[[2-(hydroxymethyl)-2-phenylethyl]amino]-1-(1H-indol-3-ylmethyl)-1-methyl-2 -oxo-ethyl]carbamate, mixture of [S-(R*, R*)] and [R-(R*, R*)] isomers
A solution of N-[(9H-fluoren-9-ylmethoxy)-carbonyl]-α-methyl-DL-tryptophan (10 g, 22.7 mmol) and pentafluorophenol (4.18 g, 22.7 mmol) in dry ethyl acetate (200 mL) was treated dropwise at 0° C. with a solution of dicyclohexylcarbodiimide (4.9 g, 24 mmol) in ethyl acetate (20 mL). This was allowed to warm to room temperature and stirred for a further hour. This mixture was then treated with a solution of L-phneylalaninol (3.773 g, 25 mmol) in ethyl acetate (15 mL) dropwise and the resultant mixture left stirring for 15 hours. This mixture was filtered and the filtrate washed sequentially with 2M citric acid solution, 1M NaOH solution, saturated NaHCO3 solution then water before being dried over MgSO4 and concentrated to an oil in vacuo. This oil was subjected to silica gel chromatography using 4% MeOH:96% CH2Cl2 as eluant to give the title compound (11.7 g, 90%), as a white solid and a mixture of two diastereoisomers. These two diastereoisomeric forms were separated by further chromatographic purification using 1% i PrOH, 99% CHCl3 as the eluant to give equal amounts of the pure diastereoisomers as white amorphous solids.

reactant | N-[(9H-fluoren-9-ylmethoxy)-carbonyl]-α-methyl-DL-tryptophan | 22.7 mmol, 10 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(CC1=CNC2=CC=CC=C12)(C(=O)O)C | C27H24N2O4
reactant | pentafluorophenol | 22.7 mmol, 4.18 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexylcarbodiimide | 24 mmol, 4.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 9H-Fluoren-9-ylmethyl-[2-[[2-(hydroxymethyl)-2-phenylethyl]amino]-1-(1H-indol-3-ylmethyl)-1-methyl-2 -oxo-ethyl]carbamate | 11.7 g, 90% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC(C(=O)NCC(C1=CC=CC=C1)CO)(C)CC1=CNC2=CC=CC=C12)=O | C36H35N3O4
